US09169259B2
To a solution of methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (210 mg, 0.49 mmol) in dioxane (10 mL) and water (10 mL) was added NaOH (150 mg, 3.75 mmol), The mixture was heated to 40° C. with stirring for 2 h. The solution was concentrated in vacuo, washed with dichloromethane (10 mL×3), then additional water (10 mL) was added and this solution was adjusted to pH=4 by addition of concentrated HCl. The solid formed was filtered to give 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (0.160 g, 78%) as a light yellow solid. 1H NMR (300 MHz, DMSO): δ 13.25 (s, 1H), 9.74 (s, 1H), 8.85 (s, 1H), 8.50 (s, 1H), 8.26-8.08 (m, 3H), 7.72-7.67 (m, 2H), 7.53-7.44 (m, 1H), 6.75 (d, 1H, J=7.8 Hz), 6.09 (d, 1H, J=8.1 Hz), 4.25-4.21 (m, 1H), 3.62-3.57 (m, 1H), 2.13-1.98 (m, 3H), 1.70-1.68 (m, 2H), 1.12 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 415, tR=1.68 min, HPLC: 98.2% at 214 nm, 98.37% at 254 nm, tR=6.21 min.

reactant | methyl 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.49 mmol, 210 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H24N6O2
reactant | NaOH | 3.75 mmol, 150 mg | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.160 g, 78% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
